US08461157B2
Step 134a: [2-(3-Bromo-phenoxy)-ethoxy]-t-butyl-dimethyl-silane (Compound 0601-289)
To a solution of 2-(3-Bromo-phenoxy)-ethanol (2.0 g, 9.2 mol) in dichloromethane (15 mL) at ice water bath temperature was added (1.25 g, 1.84 mmol) imidazole followed by the addition of TBSCl (1.67 g, 11 mmol) under nitrogen protection. TLC showed reaction was complete in 1 h. The reaction mixture was filtered. The filtrate was washed with water and dried over Na2SO4. The crude product was purified by column chromatography eluted with hexanes/ethyl acetate to afford titled product as a light color oil (2.65 g, 87%).

reactant | 2-(3-Bromo-phenoxy)-ethanol | 9.2 mol, 2.0 g | BrC=1C=C(OCCO)C=CC1 | C8H9BrO2
reactant | imidazole | 1.84 mmol, 1.25 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 11 mmol, 1.67 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | [2-(3-Bromo-phenoxy)-ethoxy]-t-butyl-dimethyl-silane | BrC=1C=C(OCCO[Si](C)(C)C(C)(C)C)C=CC1 | C14H23BrO2Si
